US08633189B2
To a solution of 4-ethyl 2-methyl 6-cyano-2H-benzo[b][1,4]oxazine-2,4(3H)-dicarboxylate (665 mg, 2.29 mmol) in ethanol (12.5 mL) was added NaOH (2.3 mL of 1 M, 2.30 mmol). The mixture was stirred at room temperature for 10 min. A solution of 1 N HCl was slowly added until the pH was acidic. After removing the ethanol, the aqueous layer was extracted with dichloromethane (3×20 mL), dried over Na2SO4 and concentrated in vacuo to provide 6-cyano-4-ethoxycarbonyl-2,3-dihydro-1,4-benzoxazine-2-carboxylic acid (590 mg, 2.14 mmol). 1H NMR (400.0 MHz; DMSO-d6) δ 13.57 (s, 1H), 8.12 (s, 1H), 7.50 (dd, J=2.0, 8.5 Hz, 1H), 7.15 (d, J=8.5 Hz, 1H), 5.20 (s, 1H), 4.44-4.40 (m, 1H), 4.20 (dd, J=7.2, 8.0 Hz, 2H), 3.72 (dd, J=3.3, 14.0 Hz, 1H), 1.25 (t, J=7.1 Hz, 3H).

reactant | 4-ethyl 2-methyl 6-cyano-2H-benzo[b][1,4]oxazine-2,4(3H)-dicarboxylate | 2.29 mmol, 665 mg | C(#N)C1=CC2=C(OC(CN2C(=O)OCC)C(=O)OC)C=C1 | C14H14N2O5
reactant | NaOH | 2.30 mmol, 1 M, 2.3 mL | [OH-].[Na+]
reactant | HCl | 1 N | Cl | ClH
solvent | ethanol | 12.5 mL | C(C)O | C2H6O
product | 6-cyano-4-ethoxycarbonyl-2,3-dihydro-1,4-benzoxazine-2-carboxylic acid | 2.14 mmol, 590 mg | C(#N)C=1C=CC2=C(N(CC(O2)C(=O)O)C(=O)OCC)C1 | C13H12N2O5
